US04255182
Preparation of 2-amino-5-(N,N-dimethylaminosulfonyl)-1,3,4-thiadiazole
2-Acetamido-5-(N,N-dimethylaminosulfonyl)-1,3,4-thiadiazole (250 grams) and concentrated hydrochloric acid (1 L) were charged into a glass reaction vessel fitted with a mechanical stirrer, reflux condenser and thermometer. This mixture was refluxed for a period of about 2 hours. It was then cooled to room temperature, filtered and the solvent stripped from the filtrate using a rotary evaporator. The solid residue was washed with 10% aqueous sodium carbonate (200 ml), air dried, then crystallized from isopropanol. These crystals were the desired product 2-amino-5-(N,N-dimethylaminosulfonyl)-1,3,4-thiadiazole and having a melting point of 188°-190° C.

reactant | 2-Acetamido-5-(N,N-dimethylaminosulfonyl)-1,3,4-thiadiazole | 250 grams | C(C)(=O)NC=1SC(=NN1)S(=O)(=O)N(C)C | C6H10N4O3S2
reactant | hydrochloric acid | 1 L | Cl | ClH
product | 2-amino-5-(N,N-dimethylaminosulfonyl)-1,3,4-thiadiazole | NC=1SC(=NN1)S(=O)(=O)N(C)C | C4H8N4O2S2
